US04137321
Preparation of 3'-acetyl-5-methyl-3-isoxazolecarboxanilide.
A solution of 5-methyl-3-isoxazolecarbonyl chloride (14.5 g) in acetone (30 ml) was added to a solution of m-aminoacetophenone (13.8 g) in acetone (280 ml) in the presence of anhydrous potassium carbonate (21.0 g). The mixture was stirred for 1/2hour, and then diluted with water. The precipitated product was filtered, washed with water and dried. Yield = 20.5 g (83%), m.p. 188°-190°.

reactant | 5-methyl-3-isoxazolecarbonyl chloride | 14.5 g | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
reactant | m-aminoacetophenone | 13.8 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | potassium carbonate | 21.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 280 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3'-acetyl-5-methyl-3-isoxazolecarboxanilide | C(C)(=O)C=1C=C(NC(=O)C2=NOC(=C2)C)C=CC1 | C13H12N2O3
